US06387926B1
C) N-(3-Quinolinyl)benzenesulfonamide
To a solution of 3-aminoquinoline (7.2 g, 50 mmol) in acetonitrile (150 mL) was added pyridine (25 mL) and the resulting mixture was cooled to 0° C. A solution of benzenesulfonyl chloride (7 mL, 55 mmol) in acetonitrile (20 mL) was added dropwise over 30 minutes. The mixture was allowed to warm to rt and stirred for 18 hours. The mixture was diluted with ethyl acetate (100 mL) and washed successively with 1N HCl, brine and saturated CuSO4, dried (MgSO4), and concentrated in vacuo to afford an oil. Purification by flash silica gel column chromatography eluting with 30% ethyl acetate in hexanes afforded compound C (13. g g, 95%) as a white solid.

reactant | 3-aminoquinoline | 50 mmol, 7.2 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 55 mmol, 7 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-Quinolinyl)benzenesulfonamide | N1=CC(=CC2=CC=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C15H12N2O2S
